US08461161B2
To a solution of (S)—N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-3-nitro-5-(trifluoromethyl)benzamide (74 mg, 0.16 mmol) in ethanol (3 mL) was added a solution of ammonium chloride (85 mg, 1.6 mmol) in water (1.5 mL), then indium powder (73 mg, mesh 100, 0.64 mmol). The mixture was heated at reflux for 40 hours, was allowed to cool to room temperature and was filtered through Celite. The filter cake was washed with ethanol and the combined filtrates were concentrated under reduced pressure. The residue was dissolved in ethyl acetate (30 mL) and water (30 mL), the phases separated and the organic phase washed with brine (30 mL), dried (Na2SO4) and concentrated under reduced pressure to give a yellow oil which was purified by flash chromatography (silica, ethyl acetate/hexanes) to give (S)-3-amino-N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-5-(trifluoromethyl)benzamide (45 mg, 65%) as a pale yellow solid.

reactant | (S)—N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-3-nitro-5-(trifluoromethyl)benzamide | 0.16 mmol, 74 mg | ClC1=CN=CC(=N1)N[C@@H](C)C=1C=C(C=CC1)NC(C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-])=O | C20H15ClF3N5O3
reactant | ammonium chloride | 1.6 mmol, 85 mg | [Cl-].[NH4+]
reactant | indium | 0.64 mmol, 73 mg | [In] | In
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 1.5 mL | O | H2O
product | (S)-3-amino-N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-5-(trifluoromethyl)benzamide | 45 mg, 65% | NC=1C=C(C(=O)NC2=CC(=CC=C2)[C@H](C)NC2=NC(=CN=C2)Cl)C=C(C1)C(F)(F)F | C20H17ClF3N5O
